US06683096B2
B. Preparation of 3-piperidin-4-yl-1H-indole
19.03 g (0.096 mol) of 3-(1,2,3,6-tetrahydro-pyridin-4-yl)-1H-indole were hydrogenated in a Parr apparatus during 18 h at 40 psi with 2.2 g of Pd/C 10% in 600 ml of methanol. After usual work-up, 16.76 g (87% of yield) of the desired product were obtained.

reactant | 3-(1,2,3,6-tetrahydro-pyridin-4-yl)-1H-indole | 0.096 mol, 19.03 g | N1CCC(=CC1)C1=CNC2=CC=CC=C12 | C13H14N2
solvent | methanol | 600 ml | CO | CH4O
catalyst | Pd/C | 2.2 g | [Pd] | Pd
product | 3-piperidin-4-yl-1H-indole | N1CCC(CC1)C1=CNC2=CC=CC=C12 | C13H16N2
